US20010037022A1
bis(1,2,2,6,6-pentamethylpiperid-4-yl) sebacate;
bis(1-octyloxy-2,2,6,6-tetramethylpiperid-4-yl) sebacate; di(1,2,2,6,6-pentamethylpiperid-4-yl) 2-n-butyl-2-(3,5-di-tert-butyl-4-hydroxybenzyl)malonate; 1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl methacrylate; 2-(2-hydroxyethylamino)-4,6-bis(4-n-butylamino-1,2,2,6,6-pentamethylpiperidyl)-1,3,5-triazine;

reactant | bis(1-octyloxy-2,2,6,6-tetramethylpiperid-4-yl) sebacate | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C44H84N2O6
reactant | di(1,2,2,6,6-pentamethylpiperid-4-yl) 2-n-butyl-2-(3,5-di-tert-butyl-4-hydroxybenzyl)malonate | C(CCC)C(C(=O)OC1CC(N(C(C1)(C)C)C)(C)C)(C(=O)OC1CC(N(C(C1)(C)C)C)(C)C)CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C42H72N2O5
reactant | 1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl methacrylate | C(C(=C)C)(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C21H39NO3
reactant | 2-(2-hydroxyethylamino)-4,6-bis(4-n-butylamino-1,2,2,6,6-pentamethylpiperidyl)-1,3,5-triazine | OCCNC1=NC(=NC(=N1)C1C(N(C(CC1NCCCC)(C)C)C)(C)C)C1C(N(C(CC1NCCCC)(C)C)C)(C)C | C33H64N8O
product | bis(1,2,2,6,6-pentamethylpiperid-4-yl) sebacate | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)C)(C)C)(=O)OC1CC(N(C(C1)(C)C)C)(C)C | C30H56N2O4
